US07622469B2
3,6-Dihydro-6,6-dimethyl-4-decylamino-2-(4′-hydroxybenzylamino)-1,3,5-triazine hydrochloride
25 ml of methanol, 40 ml of acetone and 0.1 ml of concentrated hydrochloric acid were added to 1.9 g (4.5 mmol) of N1-(4-hydroxybenzyl)-N5-decyl-biguanide dihydrochloride, and the mixture was refluxed for 30 hours. The solvent was distilled off under reduced pressure, and the residue was recrystallized with 80% aqueous acetonitrile to obtain 0.4 g of colorless crystals having a melting point of 109 to 111° C.

reactant | methanol | 25 ml | CO | CH4O
reactant | hydrochloric acid | 0.1 ml | Cl | ClH
reactant | N1-(4-hydroxybenzyl)-N5-decyl-biguanide dihydrochloride | 4.5 mmol, 1.9 g | Cl.Cl.OC1=CC=C(CNC(=N)NC(=N)NCCCCCCCCCC)C=C1
reactant | acetone | 40 ml | CC(=O)C | C3H6O
product | 3,6-Dihydro-6,6-dimethyl-4-decylamino-2-(4′-hydroxybenzylamino)-1,3,5-triazine hydrochloride | 0.4 g | Cl.CC1(N=C(NC(=N1)NCC1=CC=C(C=C1)O)NCCCCCCCCCC)C | InChI=1S/C22H37N5O.ClH/c1-4-5-6-7-8-9-10-11-16-23-20-25-21(27-22(2,3)26-20)24-17-18-12-14-19(28)15-13-18;/h12-15,28H,4-11,16-17H2,1-3H3,(H3,23,24,25,26,27);1H
